US07122550B2
6-(4-Aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine
A mixture of 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine (1.10 g, 4.71 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) aniline (1.10 g, 5.02 mmol), (PPh3)4Pd (580 mg, 0.5 mmol) and a Na2CO3 solution (2.6 ml, 2M solution) in toluene (20 ml) was heated under reflux for 40 h. Upon cooling, the mixture was diluted with water (30 mL) and the product extracted with ethyl acetate (3×40 ml). The organic layers were combined, washed with brine (30 ml), dried (Na2SO4), and the solvent removed in vacuo. The residue was purified by column chromatography, eluting with a hexane-ethyl acetate (2:3) to furnish the desired product from the polar fractions (0.86 g, 63%).

reactant | 6-chloro-N-[(1S)-1-phenylethyl]pyrazin-2-amine | 4.71 mmol, 1.10 g | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C12H12ClN3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) aniline | 5.02 mmol, 1.10 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | Na2CO3 | 2M, 2.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
catalyst | (PPh3)4Pd | 0.5 mmol, 580 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Aminophenyl)-N-[(1S)-1-phenylethyl]pyrazin-2-amine | NC1=CC=C(C=C1)C1=CN=CC(=N1)N[C@@H](C)C1=CC=CC=C1 | C18H18N4
